US08802858B2
[4-(2-{2-[4-(2-Benzyloxycarbonylamino-acetylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester
To a stirred solution of 0.4 g of {[4-(1H-benzoimidazol-2-yl)-furazan-3-ylcarbamoyl]-methyl}-carbamic acid benzyl ester (0.97 mmol, 1 eq.) in 6 mL of N,N′-dimethylformamide are added 0.2 g of potassium carbonate (1.4 mmol; 1.45 eq.) at room temperature followed by the addition of 0.41 g of [4-(2-bromo-acetyl)-phenyl]-carbamic acid benzyl ester (CAS 157014-41-0) (1.16 mmol; 1.2 eq.). The reaction mixture is stirred for 2 h at room temperature and is then diluted with 20 mL of ethyl acetate. The solution is washed with water (2×10 mL) and brine (2×10 mL), dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure. The residue is then dissolved in hot ethyl acetate (2 mL) and the solution is placed in an ice-bath. After 0.5 h, the resulting suspension is filtered and the solid is washed with cold ethyl acetate (1 mL) to afford 0.2 g of the desired product as a white powder.

reactant | {[4-(1H-benzoimidazol-2-yl)-furazan-3-ylcarbamoyl]-methyl}-carbamic acid benzyl ester | 0.97 mmol, 0.4 g, 1 eq. | C(C1=CC=CC=C1)OC(NCC(NC1=NON=C1C1=NC2=C(N1)C=CC=C2)=O)=O | C19H16N6O4
reactant | potassium carbonate | 1.4 mmol, 0.2 g, 1.45 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | [4-(2-bromo-acetyl)-phenyl]-carbamic acid benzyl ester | 1.16 mmol, 0.41 g, 1.2 eq. | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(CBr)=O)=O | C16H14BrNO3
solvent | N,N′-dimethylformamide | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | [4-(2-{2-[4-(2-Benzyloxycarbonylamino-acetylamino)-furazan-3-yl]-benzoimidazol-1-yl}-acetyl)-phenyl]-carbamic acid benzyl ester | 0.2 g | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C2=NON=C2NC(CNC(=O)OCC2=CC=CC=C2)=O)=O)=O | C35H29N7O7
